US06140330
To a solution of methyl 2,4-dihydroxybenzoate (25.1 g) in acetone (250 ml) are added methyl bromoacetate (14.9 ml) and potassium carbonate (21.7 g), and the mixture is refluxed for 3 hours. The mixture is filtered, and the filtrate is concentrated, and the residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=3:1) to give ethyl 2-(3-hydroxy-4-methoxycarbonylphenoxy)acetate (31.5 g).

reactant | methyl 2,4-dihydroxybenzoate | 25.1 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | methyl bromoacetate | 14.9 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 21.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | ethyl 2-(3-hydroxy-4-methoxycarbonylphenoxy)acetate | 31.5 g | OC=1C=C(OCC(=O)OCC)C=CC1C(=O)OC | C12H14O6
